US06812228B2
Preparation of 1-Chloromethyl-3-methylsulfanyl-benzene (Step C, Scheme 3)
To a solution of (3-methylsulfanyl-phenyl)-methanol (23.8 g, 0.156 mol) in benzene (250 mL) was added thionyl chloride (26.9 g, 0.234 mol) under cooling with an ice-bath. The ice-bath was removed and the reaction mixture stirred for 48 hours at room temperature. The solution was concentrated and used without further work-up (26.9 g).

reactant | (3-methylsulfanyl-phenyl)-methanol | 0.156 mol, 23.8 g | CSC=1C=C(C=CC1)CO | C8H10OS
reactant | thionyl chloride | 0.234 mol, 26.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | 1-Chloromethyl-3-methylsulfanyl-benzene | ClCC1=CC(=CC=C1)SC | C8H9ClS
